Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right-sided weakness
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
NEUROLOGY CODE STROKE NOTE

Neurology at bedside for evaluation after code stroke activation
within: 5 minutes

Time (and date) the patient was last known well: 16:00 (24h
clock) 

___ Stroke Scale Score: 6 

t-PA given: No Reason t-PA was not given or considered: recent
stroke in same week

I reviewed the images from the outside hospital. 

___ Stroke Scale score was : 6
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0
2. Best gaze: 0
3. Visual fields: 0
4. Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 4
6a. Motor leg, left: 0
6b. Motor leg, right: 2
7. Limb Ataxia: 0
8. Sensory: 0
9. Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0

REASON FOR CONSULTATION: Code stroke

HPI: 
Ms. ___ is a ___ old right-handed woman with a history of
hypertension, hypothyroidism and current smoking as well as 2
prior strokes, most recently a left MCA stroke in the past week
with complete recovery who is now presenting with sudden onset
right-sided plegia.

Patient was sitting at home on the couch and last seen well at 4
___.  Her family member walked in around 5 ___ and noticed that 
she
had weakness of the right arm and leg.  She was also having
difficulty speaking.  She was taken to ___ where a code
stroke was activated.  BP on arrival was 106/69.   ___ stroke
scale was 12 for intact cranial nerves, no facial droop, 
right-sided plegia and sensory deficit of the right arm.  TPA 
was
not given as she was recently treated for stroke within the past
week.

Patient has a history of a left MCA infarct in ___
which from which she completely recovered and only has residual
poor penmanship.  She was briefly on Coumadin from ___ -
___ but this was stopped for unclear reasons.  She had
been maintained on aspirin therapy.  Etiology of the left MCA 
was
a left ICA stenosis and possible complete occlusion.  TTE 
normal.
She was well up until ___ when she presented with new 
right
hand and arm clumsiness.  She had an MRI which showed a new 
acute
left MCA infarct superimposed on prior infarct.  MRA showed the
known occluded left internal carotid artery and otherwise patent
anterior circulation.  The right vertebral artery was thought to
be very diminutive versus thready.  During this admission,
patient's aspirin was increased to 325 mg daily she was 
continued
on home atorvastatin 80 mg daily.  Patient was discharged home
with improvement in her symptoms.

Currently she is unable to move her right arm and minimally able
to move her right leg. She reports her speech is much improved
from the outside hospital. 

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

PMH:
Left MCA stroke
Current smoker
HTN
Hypothyroidism
Depression
s/p cholecystectomy

Home Medications:
Nicotine patch 14 mg every day
Levothyroxine 50  micrograms daily
Bupropion SR 150 mg twice a day
Mirtazapine 15 mg at bedtime
Fluoxetine 40 mg daily
Hydroxyzine 10 mg every 6 hours as needed for psoriasis
Vitamin D 1000 units daily
Lisinopril 5 mg daily
Atorvastatin 80 mg nightly
Aspirin 325 mg daily

Allergies: No known drug allergies     

Social Hx:
___
Family Hx:
No stroke

**********
Physical Exam:
Vitals: T: 96.7 P: 70  R: 16  BP: 109/75 SaO2: 96% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5-   ___   ___    5   5     5      5   
R  0    0   0   0   0   4+  4    3   2     3      0   

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. 

-DTRs:
  ___ Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was extensor on the right, flexor on the left

-Coordination: No dysmetria on FNF on the left. 

-Gait: deferred

**********
Laboratory Data:
WBC 10.9
H/H 12.___
PLT 232

NA 137
K 4.1
CL 104
CO2 23
BUN 17 
CR 1.1
GLU 107

INR 1.0

EKG: Normal sinus rhythm at 69.  Left axis deviation

Radiologic Data:

Non-Contrast CT of Head ___:
Microvascular leukoencephalopathy with multiple small old
cerebral infarcts, left greater than right no evidence of
intracranial hemorrhage or midline shift.

CTA head and neck ___: 
1.  Occluded left ICA.
2.  Short segment 50-60% stenosis of the proximal right ICA.
3.  Patent anterior, middle and posterior cerebral arteries.

Chest x-ray ___:
Low lung volumes.  Pulmonary vasculature is accentuated due to
the degree of inspiration.  No focal infiltrates or visible
pleural effusions.

***************
ASSESSMENT:
Ms. ___ is a ___ old right-handed woman with a history of
hypertension, hypothyroidism and current smoking as prior left
MCA stroke in the setting of left ICA occlusion with near full
return to baseline now presents with sudden onset right-sided
plegia concerning for recurrent left MCA stroke. Her exam is
notable for intact language, cranial nerves, right arm plegia 
and
right leg paresis. CTA confirms a left ICA occlusion with distal
patency. Etiology of her repeat stroke may be secondary to
hypoperfusion event given the either extremely low flow or lack
of flow to the left ICA with an admit blood pressure of systolic
100. Given her intracranial atherosclerosis and now two strokes
on aspirin, will likely need to add an additional agent for
further protection. Will consider Plavix pending MRI without
microhemorrhages. Will admit to the neuro intermediate unit 
given
her pressure dependent findings. 

PLAN:
- Admit to Neurology Stroke Service, Attending Dr. ___  
 
# Neuro:  
- MRI head   
- Check risk factors: fasting lipid panel and HBA1c  
- Consider increasing/transitioning aspirin  
- Allow BP to autoregulate  
- activity: bedrest
- continuous IVFs
- ___ consults
 
# CV:  
- R/o MI with CE  
- Monitor by telemetry  
- Allow BP to autoregulate with goal SBP < 180 (goal SBP
140-180s)  
- Hydralazine 10 mg IV q6h prn SBP > 180  
- Hold home antihypertensives / halve dose of beta-blocker  
- no need to repeat trans-thoracic echo  

# Pulm:
- monitor sats
- screening CXR

# GI/Nutrition:
- NPO until passes dysphagia screen
- cardiac heart healthy diet once passess
- Bowel regimen with Senna, Colace 

# Renal: 
- baseline Cr normal
- continue to trend
- mIVFs @ 75

# Endo:
- TSH, A1C
- Finger sticks QID
- insulin sliding scale  

# Tox/Metabolic:  
- Check LFTs  
- Check urine and serum tox screens 

# ID:  
- Check UA  
- Check CXR

Prophylaxis and Hospital issues:  
- DVT: SQ heparin/pneumoboots  
- Precautions: fall  
- Health Care Proxy: ___ (daughter) ___
- Code Status: Full, confirmed 

This case was discussed with Dr. ___ fellow.

___, MD
___ Resident, PGY-3
___

Addendum by ___, MD on ___ at 6:36 pm:
Patient was seen and examined. Agree with Dr. ___ 
___,
exam, impression, and plan on ___. 

Patient is a ___ year old woman hx of HTN, cigarette use, who had
a left MCA infarct in ___, another left MCA stroke on ___,
who was last seen normal at 4pm on ___, and then at 5pm was
noted to have right arm and leg weakness with slurred speech.
Denies word finding difficulty and difficulty understanding
others. 

Neuro exam on ___:
MS: alert and oriented x3, intact fluency and comprehension
intact naming and repetition
CN: pupils reactive bilaterally, eomi, intact facial strength,
vfftc, intact light touch bilaterally
Motor: 

       D    B    T   FE    FF    IP   Q    H    DF   PF
Left   5    5    5    5    5      5   5    5     5    5
Right  2    4    4-   2    4-     2   4-   2     4-   4
Sensory: intact light touch and pp bilaterally
no extinction to DSS light touch stimulation
Reflexes: right toe upgoing, left toe downgoing
Coord: intact fnf of the left arm

CT brain: multiple chronic cerebral infarcts more prominent in
the left hemisphere than right hemisphere. No bleed. 

CTA brain/neck: occlusion of the left proximal ICA with
reconstitution at the level of the ophthalmic artery. 
50-60% stenosis of the right ICA. 

A/P: ___ year old woman who presents with recurrent left MCA
infarcts. Etiology is most probably due to embolic from left ICA
stump or watershed strokes. 
1. Neuro
-neuro checks q4 hours
-admit to NIMU. 
-change from aspirin 325mg daily to aspirin 81mg daily and 
Plavix
75mg daily (if passes Swallow eval)
-no need for TTE as it was done recently. 
-continue atorvastatin 80mg qhs.
-___
-hold her lisinopril
-allow SBP to autoregulate from SBP 120 to 200
2. Full code
 
Past Medical History:
Left MCA stroke
Current smoker
HTN
Hypothyroidism
Depression
s/p cholecystectomy
 
Social History:
___
Family History:
No histories of stroke
 
Physical Exam:
Discharge Physical Exam:

Vitals ___:
Temp: 97.4-98.8
HR: ___
BP: ___
RR: ___
O2 sat: 97-98%

 General: NAD, resting in bed, in good spirits.
 CV/R: Breathing comfortably on room air.
 Extremities: Warm, no edema
 Skin: No rashes or lesions

Neurologic Examination:
 - Mental Status - Awake, alert, oriented to person, place and 
time. Normal prosody. No evidence of hemineglect. No left-right 
confusion.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling. 
EOMI, no nystagmus. V1-V3 without deficits to light touch 
bilaterally. Subtle right facial weakness.
- Motor - Normal bulk and tone. 
Weakness more significant proximally compared to distally.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5
 R  5   4+   4+  4+  ___ 4+  5    4  4     4     4-

- Sensory - No deficits to light touch or temperature 
bilaterally.

Admission Physical Exam:
Vitals: T: 96.7 P: 70  R: 16  BP: 109/75 SaO2: 96% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5-   ___   ___    5   5     5      5   
R  0    0   0   0   0   4+  4    3   2     3      0   

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. 

-DTRs:
  ___ Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was extensor on the right, flexor on the left

-Coordination: No dysmetria on FNF on the left. 

-Gait: deferred
 
Pertinent Results:
___ 07:00PM BLOOD TSH-1.9
___ 07:00PM BLOOD Triglyc-225* HDL-59 CHOL/HD-2.3 
LDLcalc-34
___ 07:00PM BLOOD %HbA1c-5.8 eAG-120
___ 07:00PM BLOOD WBC-9.6 RBC-4.00 Hgb-12.3 Hct-36.6 MCV-92 
MCH-30.8 MCHC-33.6 RDW-12.6 RDWSD-42.3 Plt ___
 
Brief Hospital Course:
Post-hospital follow-up:
- Prior to admission, was on ASA 325, but she had a recurrent 
stroke, so for 2 months, please continue ASA 81mg and Plavix 
75mg, then, after 2 months, please just take Plavix 75mg 
indefinitely.
- Halved atorvastatin 80 --> 40mg since LDL here was 36.

Ms. ___ is a ___ year old woman presents with recurrent left 
MCA
infarcts, with symptoms of right-sided weakness. 
CT brain: multiple chronic cerebral infarcts more prominent in
the left hemisphere than right hemisphere. No bleed. 
CTA brain/neck: occlusion of the left proximal ICA with
reconstitution at the level of the ophthalmic artery. 
50-60% stenosis of the right ICA. 
MRI brain on ___: late acute infarcts in the left precentral
gyrus, smaller subacute infarcts in the left postcentral gyrus. 
subacute infarcts in the left MCA/ACA/PCA watershed territories.
Etiology is most probably due to embolic from left ICA stump, or 
watershed strokes. She had a TTE performed recently, so no TTE 
was needed during this admission, as no cardiac thrombus was 
likely to be found.
Stroke lab workup: 
- LDL 36, will recommend halving atorva (was on 80, but will 
halve to 40.)
- Hb A1C 5.8
- TSH 1.9.

Her home blood pressure medications were held during the first 2 
days of inpatient, to allow her blood pressure to auto-regulate, 
but the lisinopril should be re-started upon discharge at half 
her home dose (home dose 5mg), so discharged on 2.5mg daily 
lisinopril. Goal BPs recommended to be 120-150/70-90.

___ evaluated Ms. ___ and recommended ___ rehab 
placement. 

============================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 36) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. nicotine 14 mg/24 hr transdermal DAILY 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. BuPROPion 150 mg PO BID 
4. Mirtazapine 15 mg PO QHS 
5. FLUoxetine 40 mg PO DAILY 
6. HydrOXYzine 10 mg PO Q6H:PRN psoriasis 
7. Vitamin D 1000 UNIT PO DAILY 
8. Lisinopril 5 mg PO DAILY 
9. Atorvastatin 80 mg PO QPM 
10. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Lisinopril 2.5 mg PO DAILY  
5.  BuPROPion 150 mg PO BID  
6.  FLUoxetine 40 mg PO DAILY  
7.  HydrOXYzine 10 mg PO Q6H:PRN psoriasis  
8.  Levothyroxine Sodium 50 mcg PO DAILY  
9.  Mirtazapine 15 mg PO QHS  
10.  nicotine 14 mg/24 hr transdermal DAILY  
11.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left Middle cerebral artery stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,
You were hospitalized due to symptoms of right sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
- Internal carotid artery stenosis.

We are changing your medications as follows:
<>
Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___